* Z:\mnt\design.r\spice\examples\2941-1.asc
Vbatt N001 0 3.7
R1 N001 N003 10K
V2 N002 0 PULSE(3.9 3.5 1s 10m 10m 1 2)
XU1 N001 0 N004 N005 N003 N002 LTC2941-1 B_Reg=60 CD_Reg=32767 EF_Reg=65535 GH_Reg=0 EF_Reg=65535 GH_Reg=0
.tran 5
.lib LTC2941-1.sub
.backanno
.end
